US04118561
7-[(Tetrahydro-2-furanyl)methyl]-7H-pyrrolo-[3,2-f]quinazoline-1,3-diamine
In a manner similar to that of Example 2, 3.98 g. of 7H-pyrrolo[3,2-f]quinazoline-1,3-diamine in ca. 260 ml. dry dimethylformamide are reacted with 1.06 g. ca. 50% sodium hydride-mineral oil dispersion and then with 3.63 g. tetrahydrofurfuryl bromide. After stirring the mixture at ca. 25° for 24 hours, 0.21 g. ca. 50% sodium hydride-mineral oil dispersion are added. Stirring is continued for one-hour, 0.73 g. tetrahydrofurfuryl bromide is added, and, after stirring for 6 hours, the reaction mixture is kept at ca. 25° for ca. 70 hours. Processing of the reaction mixture in the manner described in Example 2 (Method A) yields a brown gum which is dissolved in 40 ml. N hydrochloric acid. Dilution of the aqueous acidic solution with 40 ml. acetone gives crystals that are collected and twice recrystallized from methanol-acetone to yield 1.20 g. title compound as a monohydrochloride salt bearing one-third molecule of water per molecule of diamine salt, m.p. 310°-311° (dec.).

reactant | 7H-pyrrolo[3,2-f]quinazoline-1,3-diamine | C=1(N=C(N=C2C=CC3=C(C12)C=CN3)N)N | C10H9N5
reactant | sodium hydride | [H-].[Na+]
reactant | tetrahydrofurfuryl bromide | C(C1CCCO1)Br | C5H9BrO
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-[(Tetrahydro-2-furanyl)methyl]-7H-pyrrolo-[3,2-f]quinazoline-1,3-diamine | O1C(CCC1)CN1C=CC=2C3=C(N=C(N=C3C=CC21)N)N | C15H17N5O
